US05594023
3-Amino-5,6-dichloro-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydro-3-phenylindol-2-one
This compound is prepared according to the procedure described in EXAMPLE 1 from 0.293 g of 3-amino-5,6-dichloro-1,3-dihydro-3-phenylindol-2-one and 0.290 g of 4-(N',N'-diethylureido)benzenesulfonyl chloride. Chromatography on silica using a DCM/AcOEt mixture (85/15; v/v) as the eluent gives the expected product after crystallization from a DCM/iso ether mixture. m=0.26 g. M.p.=119°-121° C.

reactant | 3-amino-5,6-dichloro-1,3-dihydro-3-phenylindol-2-one | 0.293 g | NC1(C(NC2=CC(=C(C=C12)Cl)Cl)=O)C1=CC=CC=C1 | C14H10Cl2N2O
reactant | 4-(N',N'-diethylureido)benzenesulfonyl chloride | 0.290 g | C(C)N(C(NC1=CC=C(C=C1)S(=O)(=O)Cl)=O)CC | C11H15ClN2O3S
solvent | DCM AcOEt | C(Cl)Cl.CCOC(=O)C
product | 3-Amino-5,6-dichloro-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydro-3-phenylindol-2-one | NC1(C(N(C2=CC(=C(C=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)NC(=O)N(CC)CC)=O)C1=CC=CC=C1 | C25H24Cl2N4O4S
